US05854245
To a 200 mL round bottomed flask with a stirring bar, and an argon inlet was added 4-(1,1-dimethylethoxycarbonyl)amino-3-methylphenol (5.00 g, 22.39 mmol), Cs2CO3 (14.59 g, 44.78 mmol), DMF (50 mL), and ethyl bromoacetate (2.61 mL, 23.51 mmol). This mixture was stirred vigorously at ambient temperature for 24 h. The mixture was filtered through a frit and the DMF was removed under high vacuum. The residue was dissolved in EtOAc (300 mL) and washed with H2O (2×) and brine (1×). Drying (MgSO4), filtration, and removal of the solvent in vacuo gave a solid. This material was triturated with 5% Et2 O-hexane, the solid was collected by filtration and dried in vacuo to give 5.40 g (78%) of ethyl 4-(1,1-dimethylethoxycarbonyl)amino-3-methylphenoxyacetate as a white, crystalline solid.

reactant | 4-(1,1-dimethylethoxycarbonyl)amino-3-methylphenol | 22.39 mmol, 5.00 g | CC(C)(OC(=O)NC1=C(C=C(C=C1)O)C)C | C12H17NO3
reactant | Cs2CO3 | 44.78 mmol, 14.59 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoacetate | 23.51 mmol, 2.61 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 4-(1,1-dimethylethoxycarbonyl)amino-3-methylphenoxyacetate | 5.40 g, 78% | CC(C)(OC(=O)NC1=C(C=C(OCC(=O)OCC)C=C1)C)C | C16H23NO5
